US07470705B2
(2R,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid 2-(2H-tetrazol-5-yl)-ethyl ester
Add sodium azide (16 mg, 0.24 mmol) and triethylamine hydrochloride (33 mg, 0.24 mmol) to a solution of (2R,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid 2-cyano-ethyl ester (77 mg, 0.12 mmol) in toluene (2.4 mL). Stir the mixture at 80° C. for 1.5 h and at 100° C. overnight. Add more sodium azide (24 mg, 0.36 mmol) and triethylamine hydrochloride (50 mg, 0.36 mmol) and stir the mixture for 8 h at 100° C. Add more sodium azide (24 mg, 0.36 mmol) and triethylamine hydrochloride (50 mg, 0.36 mmol) and stir the mixture for 6 h at 100° C. Cool down to room temperature. Add 1 M HCl and extract the aqueous phase with dichloromethane. Wash the organic layers with water and brine, then dry over Na2SO4, filter, and concentrate. Purify the crude material by silica gel chromatography (elution with dichloromethane/methanol) to afford the title compound (55 mg, 66%). MS (ES+): 694 (M+H).

reactant | sodium azide | 0.24 mmol, 16 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.24 mmol, 33 mg | Cl.C(C)N(CC)CC
reactant | (2R,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid 2-cyano-ethyl ester | 0.12 mmol, 77 mg | C(#N)CCOC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C(F)(F)F)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C26H23F9N8O2
reactant | sodium azide | 0.36 mmol, 24 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.36 mmol, 50 mg | Cl.C(C)N(CC)CC
reactant | sodium azide | 0.36 mmol, 24 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.36 mmol, 50 mg | Cl.C(C)N(CC)CC
reactant | HCl | 1 M | Cl | ClH
solvent | toluene | 2.4 mL | C1(=CC=CC=C1)C | C7H8
product | (2R,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid 2-(2H-tetrazol-5-yl)-ethyl ester | 55 mg, 66% | N=1NN=NC1CCOC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C(F)(F)F)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C26H24F9N11O2
